US08389539B2
2-(4-Cyclopropyl-phenyl)-2,8-diaza-spiro[4.5]decan-1-one
A mixture of 1.3 g (4.1 mmol) 4-(2-Methoxy-ethyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester, 0.604 g (4.5 mmol) 4-cyclopropylaniline and 8.24 mL (8.24 mmol) dimethylaluminum chloride (1N in hexane) in 100 mL toluene was stirred at 115° C. for 15 h. After cooling to room temperature the mixture was poured into ice, the mixture was acidified with HCl aq. to pH=2 and extracted with ethyl acetate. The aqueous layer was basified with NaOH pellets to pH=8 and extracted with DCM. The combined organic layers were dried with MgSO4 and evaporated to dryness. The residue was purified by column chromatography on silica (amine) with a gradient formed from ethyl acetate and methanol to yield after evaporation of the product containing fractions 0.468 g (42%) of the title compound as light yellow solid. MS m/e: 270.0 [M+H]+.

reactant | 4-(2-Methoxy-ethyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 4.1 mmol, 1.3 g | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCOC | C16H29NO5
reactant | 4-cyclopropylaniline | 4.5 mmol, 0.604 g | C1(CC1)C1=CC=C(N)C=C1 | C9H11N
reactant | dimethylaluminum chloride | 8.24 mmol, 1N, 8.24 mL | [Cl-].C[Al+]C
reactant | HCl | Cl | ClH
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Cyclopropyl-phenyl)-2,8-diaza-spiro[4.5]decan-1-one | C1(CC1)C1=CC=C(C=C1)N1C(C2(CC1)CCNCC2)=O | C17H22N2O
